US04584307
Preparation of 2-(4-fluorophenyl)-4,4,5,5,5-pentafluoro-1-(1H-1,2,4-triazol-1-yl)pentan-2,3-diol
2-Hydroxy-2-(4-fluorophenyl)-4,4,5,5,5-pentafluoro-1-(1H-1,2,4-triazol-1-yl)pentan-3-one (0.2 g., 0.00057M) was dissolved in isopropyl alcohol (10 ml.) and the resulting solution was cooled in ice. Sodium borohydride (0.2 g., 0.005M) was then added, and the mixture was stirred for 1 hour whilst being cooled in an ice bath. Hydrochloric acid (2N, 10 ml.) was then added. The isopropyl alcohol was evaporated, the remaining solution was treated with dilute aqueous sodium bicarbonate solution to neutrality, and the mixture was extracted with methylene chloride (3×10 ml). The combined methylene chloride extracts were dried (MgSO4) and evaporated. Chromatography of the residue on silica (230-400 mesh) using ethyl acetate as the eluant gave the pure title compound, 0.09 g., which was then recrystallised from ethyl acetate/60°-80° petrol, m.p. (after said recrystallisation) 165°-168°.

reactant | 2-Hydroxy-2-(4-fluorophenyl)-4,4,5,5,5-pentafluoro-1-(1H-1,2,4-triazol-1-yl)pentan-3-one | 0.00057M, 0.2 g | OC(CN1N=CN=C1)(C(C(C(F)(F)F)(F)F)=O)C1=CC=C(C=C1)F | C13H9F6N3O2
reactant | Sodium borohydride | 0.005M, 0.2 g | [BH4-].[Na+]
reactant | Hydrochloric acid | 2N, 10 ml | Cl | ClH
solvent | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
product | 2-(4-fluorophenyl)-4,4,5,5,5-pentafluoro-1-(1H-1,2,4-triazol-1-yl)pentan-2,3-diol | FC1=CC=C(C=C1)C(CN1N=CN=C1)(C(C(C(F)(F)F)(F)F)O)O | C13H11F6N3O2
